US07683049B2
1-[2-(N-methylamino)ethyl]imidazole was synthesized from the mesylate of 2-(N-Boc-N-methylamono)ethanol, which was allowed to react with imidazole in the presence of LiHMDS. The starting material was prepared by selective protection of amino group with Boc-anhydride in the presence of Al2O3 according to the procedure described in literature (Yadar, V. K.; Ganesh Babu, K. J. Org. Chem. 2004, 69, 577-580).

reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
product | 1-[2-(N-methylamino)ethyl]imidazole | CNCCN1C=NC=C1 | C6H11N3
